US07345178B2
A mixture of 2-(5-nitrothiophen-2-yl)oxazolo[5,4-c]pyridine (170 mg, 0.69 mmol), NH4Cl (199 mg, 3.73 mmol), iron powder (328 mg, 5.87 mmol), H2O (10 mL) and methanol (40 mL) was heated to reflux for 6 hrs under N2. The mixture was concentrated in vacuo followed by addition of 100 mL of water and left overnight at 4° C. The precipitate was collected by filtration and dried to give 5-(oxazolo[5,4-c]pyridin-2-yl)thiophen-2-amine as a brown solid (52 mg, yield 35%). 1HNMR (400 MHz, DMSO-d6) δ: 8.84 (1H, s); 8.40 (1H, d, J=5.2); 7.64 (1H, d, J=4); 7.57 (1H, d, J=5.2), 7.06 (2H, s), 1.09 (1H, d, J=4.4).

reactant | 2-(5-nitrothiophen-2-yl)oxazolo[5,4-c]pyridine | 0.69 mmol, 170 mg | [N+](=O)([O-])C1=CC=C(S1)C=1OC=2C=NC=CC2N1 | C10H5N3O3S
reactant | NH4Cl | 3.73 mmol, 199 mg | [NH4+].[Cl-]
reactant | H2O | 10 mL | O | H2O
catalyst | iron | 5.87 mmol, 328 mg | [Fe] | Fe
solvent | methanol | 40 mL | CO | CH4O
product | 5-(oxazolo[5,4-c]pyridin-2-yl)thiophen-2-amine | 52 mg, yield 35% | N1=C(OC=2C=NC=CC21)C2=CC=C(S2)N | C10H7N3OS
